US09169254B2
Acetic anhydride (45 mg, 0.44 mmol) was added to a solution of 8-[2-(4-amino-phenyl)-ethanesulfonyl]-2-cyclohexyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (92 mg, 0.22 mmol) in CH2Cl2 (5 mL). Triethylamine (55 mg, 0.5 mmol) was then added on an ice bath, and the mixture was stirred at room temperature for one hour. The reaction mixture was diluted with dichloromethane, and the organic layer was then sequentially washed with water and saturated brine and dried over Na2SO4. The organic layer was concentrated under reduced pressure, and the resulting residue was then purified by P-TLC to give N-{4-[2-(2-cyclohexyl-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl)-ethyl]-phenyl}-acetamide (55 mg, 54.3%).

reactant | Acetic anhydride | 0.44 mmol, 45 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | 8-[2-(4-amino-phenyl)-ethanesulfonyl]-2-cyclohexyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 0.22 mmol, 92 mg | NC1=CC=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCCCC2)=O)CC1 | C21H30N4O3S
reactant | Triethylamine | 0.5 mmol, 55 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{4-[2-(2-cyclohexyl-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl)-ethyl]-phenyl}-acetamide | 55 mg, 54.3% | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)CCC2=CC=C(C=C2)NC(C)=O | C23H32N4O4S
